US05317016
To a solution of (2R,4S)-4-acetylthio-1-t-butoxycarbonyl-2-(N-t-butoxycarbonyl-N-sulfamoylamino)methylpyrrolidine (i.e., a substrate) in dichloromethane, 4.92M sodium methoxide (NaOMe) in methanol is added. The mixture is stirred. The conditions for this reaction are shown in Table 3, Step A-7. The reaction mixture is diluted with water. The water layer is taken, toluene is added thereto, and acidified with conc. hydrochloric acid under ice cooling. The organic layer is taken, successively washed with water and saturated brine, dried over magnesium sulfate, and concentrated in vacuo to give (2R,4S)-1-t-butoxycarbonyl-2-(N-t-butoxycarbonyl-N-sulfamoylamino)methyl-4-mercaptopyrrolidine. mp. 90.0° to 91.5° C. NMR δ(CDCl3) ppm: 1.43(s, 9H), 1.52(s, 9H), 1.72(d, J=7.0 Hz, 1H), 1.9 to 2.0(m, 2H), 3.2 to 3.8(m, 5H), 4.5(m, 1H), 6.11(s, 2H). IR ν (KBr) cm-1 : 3220, 1698, 1683. Elemental Analysis (C15H29O6N3S2) Calcd. C:43.78, H:7.10, N:10.21, S:15.58. Found. C:43.55, H:7.11, N:10.37, S:15.75.

reactant | (2R,4S)-4-acetylthio-1-t-butoxycarbonyl-2-(N-t-butoxycarbonyl-N-sulfamoylamino)methylpyrrolidine | C(C)(=O)S[C@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)CN(S(N)(=O)=O)C(=O)OC(C)(C)C | C17H31N3O7S2
reactant | sodium methoxide | 4.92M | C[O-].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | (2R,4S)-1-t-butoxycarbonyl-2-(N-t-butoxycarbonyl-N-sulfamoylamino)methyl-4-mercaptopyrrolidine | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](C1)S)CN(S(N)(=O)=O)C(=O)OC(C)(C)C | C15H29N3O6S2
